US06548495B2
5-[3-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-oxazole-4-carboxylic Acid Ethyl Ester
The title compound was prepared from (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example J2) (164 mg) and 5-[3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-phenyl]-oxazole-4-carboxylic acid ethyl ester (Example L6) (206 mg) according to the general procedure M. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (63 mg).

reactant | (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester | 164 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)N)=O | C15H19N3O2
reactant | 5-[3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-phenyl]-oxazole-4-carboxylic acid ethyl ester | 206 mg | C(C)OC(=O)C=1N=COC1C1=CC(=CC=C1)C=1OC(OC(C1)=O)(C)C | C18H17NO6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-[3-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-oxazole-4-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=COC1C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=CC(=C2)N2C=CC=C2)=O | C25H20N4O4
